US08232283B2
6-(2-Chloro-5-nitrophenyl)-8-methoxy-2-(methylsulfonyl)pyrido[2,3-d]pyrimidin-7(8H)-one (4.87 mmol), N,N-dimethylethane-1,2-diamine (11.3 mmol), and conc. aq. hydrochloric acid (2.0 mL) were placed in a microwave vessel and dissolved in 2-propanol (18 mL). The mixture was heated with microwave irradiation in a sealed vessel at 100° C. for 15 min. The reaction mixture was concentrated under reduced pressure and extracted with EtOAc. The organic layer was washed with water and aqueous buffer (aq. KH2PO4 and NaOH. pH 7.0). The aqueous layer was backextracted with EtOAc (4×50 mL). The organic layer was dried over Na2SO4, filtered and concentrated under reduced pressure to give solid 6-(2-chloro-5-nitrophenyl)-2-(2-(dimethylamino)ethylamino)-8-methoxypyrido[2,3-d]pyrimidin-7(8H)-one that was used without furoom temperatureher purification (53%).

reactant | 6-(2-Chloro-5-nitrophenyl)-8-methoxy-2-(methylsulfonyl)pyrido[2,3-d]pyrimidin-7(8H)-one | 4.87 mmol | ClC1=C(C=C(C=C1)[N+](=O)[O-])C1=CC2=C(N=C(N=C2)S(=O)(=O)C)N(C1=O)OC | C15H11ClN4O6S
reactant | N,N-dimethylethane-1,2-diamine | 11.3 mmol | CN(CCN)C | C4H12N2
reactant | hydrochloric acid | 2.0 mL | Cl | ClH
solvent | 2-propanol | 18 mL | CC(C)O | C3H8O
product | 6-(2-chloro-5-nitrophenyl)-2-(2-(dimethylamino)ethylamino)-8-methoxypyrido[2,3-d]pyrimidin-7(8H)-one | ClC1=C(C=C(C=C1)[N+](=O)[O-])C1=CC2=C(N=C(N=C2)NCCN(C)C)N(C1=O)OC | C18H19ClN6O4
